US05580883
1-tert-Butyloxycarbonyl-4-hydroxymethylpiperidine (2.8 g) was dissolved in dimethylformamide (10 ml), followed by stirring for 30 minutes. To the mixture was added p-fluoronitrobenzene (2.1 g), followed by stirring at room temperature overnight. Aqueous saturated solution of sodium bicarbonate was added to the mixture which was extracted with methylene chloride (50 ml×3). The combined organic layer was washed with saturated saline and dried over sodium sulfate. The solvent was distilled off under reduced pressure and the residue thus obtained was purified by silica gel column chromatography (developing solvent: hexane/ethylacetate=5/1 (v/v)) to obtain 1-tert-butyloxycarbonyl-4-[(4-nitrophenyloxy)methyl]piperidine (1.9 g) as pale yellow crystals, m.p. 130°-131° C.

reactant | 1-tert-Butyloxycarbonyl-4-hydroxymethylpiperidine | 2.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | p-fluoronitrobenzene | 2.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-tert-butyloxycarbonyl-4-[(4-nitrophenyloxy)methyl]piperidine | 1.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C17H24N2O5
